US08334293B2
Add hydrogen chloride (1.1 equiv; 18.52 mmoles; 4.63 mL) to a suspension of 4-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine (7.5 g; 1.00 equiv; 16.84 mmoles) in dichloromethane (50 mL), and stir the mixture for 1 hour at RT. Remove the solvent in vacuo, and triturate the crude in MTBE for 1 hour. Filter the solid and dry in vacuo overnight to give 4-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-3-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine hydrochloride (7.99 g; 16.58 mmoles; 98.47% yield) as a white solid. 1H-NMR (300 MHz, DMSO): 614.01-13.99 (m, 1H), 8.57-8.54 (m, 2H), 8.26-8.19 (m, 3H), 7.72-7.63 (m, 1H), 5.23-5.20 (m, 2H), 3.89 (s, 3H), 3.41 (m, 2H), 2.15-2.07 (m, 3H), 1.10 (s, 2H).

reactant | hydrogen chloride | 18.52 mmoles, 4.63 mL, 1.1 equiv | Cl | ClH
reactant | 4-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine | 16.84 mmoles, 7.5 g, 1.00 equiv | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCN(CC1)C1=C2C(=NC=N1)NN=C2)C(F)(F)F | C21H19F4N7
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-3-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine hydrochloride | 16.58 mmoles, 7.99 g, 98.47% yield | Cl.FC1=C(C=C(C=C1)C=1N(C(NC1)C1CCN(CC1)C1=C2C(=NC=N1)NN=C2)C)C(F)(F)F | InChI=1S/C21H21F4N7.ClH/c1-31-17(13-2-3-16(22)15(8-13)21(23,24)25)10-26-19(31)12-4-6-32(7-5-12)20-14-9-29-30-18(14)27-11-28-20;/h2-3,8-12,19,26H,4-7H2,1H3,(H,27,28,29,30);1H
